US04742069
A solution of 3.0 g of 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)-nicotinic acid 2-chloroethyl ester in 18 ml of dimethylformamide were treated under argon with 0.75 g of dry sodium acetate and the mixture was thereupon heated to reflux for 1 hour. The mixture was then concentrated to dryness under reduced pressure and the residue was partitioned between water and methylene chloride. The organic phase was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and evaporated to dryness. The residual oil was chromatographed on 300 g of silica gel with methylene chloride/ethyl acetate (4:1) as the elution agent. The uniform fractions were combined and evaporated. After triturating the residue with ether there were obtained 1.85 g of 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid 2-acetoxyethyl ester in the form of pale yellow crystals, m.p. 133°-136°. Recrystallization from isopropanol yielded a product of melting point 134°-137°.

reactant | 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)-nicotinic acid 2-chloroethyl ester | 3.0 g | ClCCOC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(NC(C)C)(=O)=O)=O)C)C)=O | C21H26ClN3O7S
reactant | sodium acetate | 0.75 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethyl-4-(3-nitrophenyl)nicotinic acid 2-acetoxyethyl ester | 1.85 g | C(C)(=O)OCCOC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(CS(NC(C)C)(=O)=O)=O)C)C)=O | C23H29N3O9S
